US07388020B2
(ii) 2,2,2-Trifluoro-N-{2-[(2-methyl-2-oxiranyl)methoxy]phenyl}acetamide
A solution of trifluoroacetic acid anhydride (1.7 ml, 12,3 mmol) in dichloromethane (1 ml) was added dropwise to a solution of 2-[(2-methyl-2-propenyl)oxy]aniline (1.0 g, 6.13 mmol) in dichloromethane-pyridine (4:1, 10 ml) at 0° C., and slowly attained room temperature. After 16 h the reaction mixture was cooled to 0° C. and water (1 ml) was added. After 1 h at room temperature the reaction mixture was washed with aqueous potasium carbonate (10%), dried (K2SO4) and concentrated. The residue and 3-chloroperbenzoic acid (75%, 2 g, 9 mmol) in dichloromethane (35 ml) was boiled under reflux for 3 h. The reaction mixture was washed with aqueous potasium carbonate (10%), dried (K2SO4) and concentrated to give the subtitle compound.

reactant | trifluoroacetic acid anhydride | 12,3 mmol, 1.7 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-[(2-methyl-2-propenyl)oxy]aniline | 6.13 mmol, 1.0 g | CC(COC1=C(N)C=CC=C1)=C | C10H13NO
reactant | water | 1 ml | O | H2O
reactant | 3-chloroperbenzoic acid | 9 mmol, 2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane pyridine | 10 ml | ClCCl.N1=CC=CC=C1
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | 2,2,2-Trifluoro-N-{2-[(2-methyl-2-oxiranyl)methoxy]phenyl}acetamide | FC(C(=O)NC1=C(C=CC=C1)OCC1(OC1)C)(F)F | C12H12F3NO3
